US04075225
A solution of 3 gm. of 9-trifluoromethylthio- 6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one in 25 ml. of acetic acid containing 3 ml. of 50% hydrogen peroxide is stirred at 25° C. for 6 hr. The solvent is evaporated and the residue dissolved in 100 ml. of methylene chloride. The solution is washed with 2 × 25 ml. of 5% Na2CO3 solution, dried and evaporated. Chromatography of the residue on silica gel yields 9-trifluoromethylsulfinyl-6,11- dihydro-5H-pyrrolo [2,1-b][3]benzazepin-11-one.

reactant | 9-trifluoromethylthio- 6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepin-11-one | FC(SC1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1)(F)F | C14H10F3NOS
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 9-trifluoromethylsulfinyl-6,11- dihydro-5H-pyrrolo [2,1-b][3]benzazepin-11-one | FC(S(=O)C1=CC2=C(CCN3C(C2=O)=CC=C3)C=C1)(F)F | C14H10F3NO2S
